US07074800B1
A solution of 4-chloro-6-methoxy-7-((1-(2-methylsulphonylethyl)piperidin-4-yl)methoxy)quinazoline (115 mg, 0.28 mmol), (prepared as described for the starting material in Example 12), 5-hydroxy-2-methylindole (50 mg, 0.33 mmol) and potassium carbonate (60 mg, 0.42 mmol) in DMF (1.5 ml) was stirred at 100° C. for 2 hours. After cooling, the mixture was partitioned between ethyl acetate and water. The organic layer was washed with water, brine, dried (MgSO4) and evaporated. The residue was purified by chromatography eluting with ethyl acetate/methylene chloride (1/1) followed by methanol/ethyl acetate/methylene chloride (1/4/5 and 1/0/9) to give 6-methoxy-4-(2-methylindol-5-yloxy)-7-((1-(2-methylsulphonylethyl)piperidin-4-yl)methoxy)quinazoline (60 mg, 41%).

reactant | 4-chloro-6-methoxy-7-((1-(2-methylsulphonylethyl)piperidin-4-yl)methoxy)quinazoline | 0.28 mmol, 115 mg | ClC1=NC=NC2=CC(=C(C=C12)OC)OCC1CCN(CC1)CCS(=O)(=O)C | C18H24ClN3O4S
reactant | 5-hydroxy-2-methylindole | 0.33 mmol, 50 mg | OC=1C=C2C=C(NC2=CC1)C | C9H9NO
reactant | potassium carbonate | 0.42 mmol, 60 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 1.5 ml | CN(C)C=O | C3H7NO
product | 6-methoxy-4-(2-methylindol-5-yloxy)-7-((1-(2-methylsulphonylethyl)piperidin-4-yl)methoxy)quinazoline | 60 mg, 41% | COC=1C=C2C(=NC=NC2=CC1OCC1CCN(CC1)CCS(=O)(=O)C)OC=1C=C2C=C(NC2=CC1)C | C27H32N4O5S
